US05037829
To a stirred and cooled (15° C.) solution of 2.5 parts of 1H-1,2,4-triazole in 70 parts of 1,4-dioxane was added dropwise 1 part of thionyl chloride under nitrogen atmosphere. After stirring for 10 minutes at 20° C., a solution of 2 parts of 6-(cyclopropylhydroxymethyl)-3,4-dihydro-2(1H)-quinazolinone in 80 parts of 1,4-dioxane was added portionwise to the previous mixture at 20°-25° C. After stirring overnight at room temperature, the precipitated product was filtered off, washed with 1,4-dioxane and purified by column chromatography over silica gel using a mixture of dichloromethane, methanol and methanol, saturated with ammonia (90:5:5 by volume) as eluent. The eluent of the desired fraction was evaporated and the residue was further purified, first by column chromatography (HPLC) over silica gel using a mixture of dichloromethane and methanol (96:4 and 97.5:2.5 by volume) and then by column chromatography (RP 18) using a mixture of water and methanol (80:20 by volume) as eluents. The eluent of the desired fraction was evaporated and the residue was stirred in 2,2'-oxybispropane. The product was filtered off, washed with 2,2'-oxybispropane and dried in vacuo at 60° C., yielding 0.04 parts (1.7%) of 6-[cyclopropyl(1H-1,2-4-triazol-1-yl)methyl]-3,4-dihydro-2(1H)-quinazolinone; mp. 184.4° C. (comp. 25).

reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 6-(cyclopropylhydroxymethyl)-3,4-dihydro-2(1H)-quinazolinone | C1(CC1)C(C=1C=C2CNC(NC2=CC1)=O)O | C12H14N2O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 6-[cyclopropyl(1H-1,2-4-triazol-1-yl)methyl]-3,4-dihydro-2(1H)-quinazolinone | 1.7% | C1(CC1)C(C=1C=C2CNC(NC2=CC1)=O)N1N=CN=C1 | C14H15N5O
